US07902187B2
2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-((S)-3-fluoropyrrolidin-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one.
Light brown solid. TFA salt. Synthesized from 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one and S-(+)-3-fluoropyrrolidine hydrochloride, following the general procedure for displacement reactions of 6-chloropurinones with aliphatic amines. 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 8.99 (s, 1H), 8.27 (dd, 1H), 7.74 (dd, 1H), 7.15 (td, 1H), 5.47 (d, J=52.4 Hz, 1H), 4.51-4.42 (m, 1H), 4.19-3.83 (overlap of 5H), 3.65 (s, 3H), 2.68-2.42 (overlap of 3H), 2.29-2.03 (overlap of 3H), 1.97-1.90 (m, 2H), 1.62-1.49 (m, 2H); MS (EI) m/z 470.3 (MH)+.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one | ClC1=C2N(C(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)O)=O)C | C19H18ClFN6O2
reactant | S-(+)-3-fluoropyrrolidine hydrochloride | C1CNC[C@H]1F.Cl
product | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-((S)-3-fluoropyrrolidin-1-yl)-9-(trans-4-hydroxycyclohexyl)-7-methyl-7H-purin-8(9H)-one | FC=1C=CC2=C(N(C=N2)C2=NC(=C3N(C(N(C3=N2)[C@@H]2CC[C@H](CC2)O)=O)C)N2C[C@H](CC2)F)C1 | C23H25F2N7O2
